US04939173
6-(4-Phenylphenoxy)hexan-1-ol
A mixture of 34.0 g (0.2 mole) or p-phenylphenol (Eastman) and 10.8 g (0.2 mole) of sodium methoxide (MCB) in 500 ml of dry dimethylformamide is heated and stirred on a steam bath for 0.5 hour, after which 27.3 g (0.2 mole) of 6-chlorohexan-1-ol (MCB) and about 2 g of sodium iodide are added. The mixture is heated to reflux with stirring, and then allowed to cool to room temperature. The reaction mixture is partitioned between ether/acetone and water, and the organic phase is extracted with base, washed with water and brine, dried (Na2SO4), and the solvent evaporated. The resultant white solid product is recrystallized twice from methanol/acetone, to give the desired product, m.p. 103-105° C.

reactant | p-phenylphenol | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | sodium methoxide | 0.2 mole, 10.8 g | C[O-].[Na+]
reactant | 6-chlorohexan-1-ol | 0.2 mole, 27.3 g | ClCCCCCCO | C6H13ClO
reactant | sodium iodide | about 2 g | [I-].[Na+]
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 6-(4-Phenylphenoxy)hexan-1-ol | C1(=CC=CC=C1)C1=CC=C(OCCCCCCO)C=C1 | C18H22O2
